US04933355
Piperidinium 2,4-Dioxo-5-(2-tritylaminothiazol-4-ylmethylene)thiazolidine-3-acetate
Following a procedure similar to that described in Example 17, the desired compound was prepared from 2.3 g of 2-tritylaminothiazole-4-carbaldehyde, 0.9 g of 2,4-dioxothiazolidine-3-acetic acid, 0.9 g of piperidine and 20 ml of ethanol. The resulting product was a pale yellow powder having the following physical properties.

reactant | 2-tritylaminothiazole-4-carbaldehyde | 2.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C=O | C23H18N2OS
reactant | 2,4-dioxothiazolidine-3-acetic acid | 0.9 g | O=C1SCC(N1CC(=O)O)=O | C5H5NO4S
reactant | piperidine | 0.9 g | N1CCCCC1 | C5H11N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Piperidinium 2,4-Dioxo-5-(2-tritylaminothiazol-4-ylmethylene)thiazolidine-3-acetate | O=C1SC(C(N1CC(=O)[O-])=O)=CC=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH2+]1CCCCC1 | InChI=1S/C28H21N3O4S2.C5H11N/c32-24(33)17-31-25(34)23(37-27(31)35)16-22-18-36-26(29-22)30-28(19-10-4-1-5-11-19,20-12-6-2-7-13-20)21-14-8-3-9-15-21;1-2-4-6-5-3-1/h1-16,18H,17H2,(H,29,30)(H,32,33);6H,1-5H2
